US05523314
5-(diphenylmethylene)-2-thioxo-4-thiazolidinone
One hundred and ninety grams (1.05 mol) of diphenyl ketimine, 140 grams (1.05 mol) of rhodanine, 5 ml of acetic acid and 1500 ml of toluene were heated at reflux for 3 hours. Crystals formed upon cooling. The solvent was decanted, fresh toluene was added to the residue and the resulting suspension was filtered. The recovered crystals were recrystallized from methanol to provide 172.0 g of title product, m.p. 192°-194° C.

reactant | rhodanine | 1.05 mol, 140 grams | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | toluene | 1500 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(diphenylmethylene)-2-thioxo-4-thiazolidinone | 172.0 g | C1(=CC=CC=C1)C(=C1C(NC(S1)=S)=O)C1=CC=CC=C1 | C16H11NOS2
